US08258158B2
1-Nitro-4-(2,2,2-trifluoro-1,1-dimethyl-ethoxy)-benzene (4.9 g) in methanol (30 ml) was hydrogenated over Pd/C (10%, 500 mg) at RT and atmospheric for 12 h. The catalyst was filtered off and the solvent removed in vacuo to give the desired 4-(2,2,2-trifluoro-1,1-dimethyl-ethoxy)-phenylamine (4.2 g) as a brown oil that was used without further purification in the next step.

reactant | 1-Nitro-4-(2,2,2-trifluoro-1,1-dimethyl-ethoxy)-benzene | 4.9 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(C(F)(F)F)(C)C | C10H10F3NO3
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 4-(2,2,2-trifluoro-1,1-dimethyl-ethoxy)-phenylamine | 4.2 g | FC(C(OC1=CC=C(C=C1)N)(C)C)(F)F | C10H12F3NO
